US05726165
4-(2-Aminoethyl)phenoxymethylphosphonic acid, diethyl ester
4-(2-t-Butoxycarbonylaminoethyl)phenoxymethylphosphonic acid, diethyl ester (2.856 g, 9.95 mMol) in methylene chloride (300 ml) and trifluoracetic acid (16 ml) was stirred at room temperature for 5 h. The solution was concentrated under reduced pressure and product dried under in vacuo. The trifluoacetic acid salt was neutralized with aqueous sodium carbonate and extracted with dichloromethane containing a small proportion of methanol (5×100 ml). The combined organic layers were dried over sodium sulfate and evaporated to dryness to give the title compound as a pale yellow gum.

reactant | 4-(2-t-Butoxycarbonylaminoethyl)phenoxymethylphosphonic acid, diethyl ester | 9.95 mMol, 2.856 g | C(C)(C)(C)OC(=O)NCCC1=CC=C(OCP(OCC)(OCC)=O)C=C1 | C18H30NO6P
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoracetic acid | 16 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-Aminoethyl)phenoxymethylphosphonic acid, diethyl ester | NCCC1=CC=C(OCP(OCC)(OCC)=O)C=C1 | C13H22NO4P
